US06166209
1'-[2-(3-Chloro-10,11-dihydro-5H-dibenzo[a,d]cyclohepten-5-ylamino)-ethyl]-spiro[isobenzofuran-1,4'-piperidin]-3-one hydrochloride (1:2)
The title compound, m.p. 228° C. and MS: m/e=473 (M+H+), was prepared in accordance with the general method of example 1 from 5-amino-3-chloro-10,11-dihydro-5H-dibenzo[a,d]cycloheptene, chloroacetyl chloride, spiro[isobenzofuran-1(3H),4'-piperidin]-3-one and Hcl.

reactant | 5-amino-3-chloro-10,11-dihydro-5H-dibenzo[a,d]cycloheptene | NC1C2=C(CCC3=C1C=C(C=C3)Cl)C=CC=C2 | C15H14ClN
reactant | chloroacetyl chloride | ClCC(=O)Cl | C2H2Cl2O
reactant | spiro[isobenzofuran-1(3H),4'-piperidin]-3-one | N1CCC2(CC1)OC(C1=CC=CC=C12)=O | C12H13NO2
product | 1'-[2-(3-Chloro-10,11-dihydro-5H-dibenzo[a,d]cyclohepten-5-ylamino)-ethyl]-spiro[isobenzofuran-1,4'-piperidin]-3-one hydrochloride | Cl.ClC=1C=CC2=C(C(C3=C(CC2)C=CC=C3)NCCN3CCC2(CC3)OC(C3=CC=CC=C32)=O)C1 | InChI=1S/C29H29ClN2O2.ClH/c30-22-12-11-21-10-9-20-5-1-2-6-23(20)27(25(21)19-22)31-15-18-32-16-13-29(14-17-32)26-8-4-3-7-24(26)28(33)34-29;/h1-8,11-12,19,27,31H,9-10,13-18H2;1H
